US05508424
1-(Pyridin-3-yl)-1,3-butadiene
To a solution of 860 mL of 1M sodium hexamethyldisilazide in THF was added 700 mL of dry THF and 361 g (0.94 mole) of allyl triphenylphosphonium bromide at 0°-5° C. under argon. After stirring the mixture cold for 1 h, a solution of 91.8 g (0.86 mole) of 3-pyridinecarboxaldehyde in 300 mL of dry THF was added portionwise keeping the reaction mixture below 15° C. After 3 h at 10° C., 100 mL of H2O and 1000 mL of Et2O were added. The organic layer was dried (MgSO4) and then evaporated in vacuo to an oil. Flash chromatography (SiO2) eluting with 20% acetone: 80% CH2Cl2 gave an oil. Kugelrohr distillation gave an oil: bp 55°-79° C. (0.005 Torr).

reactant | sodium hexamethyldisilazide | 1M, 860 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | allyl triphenylphosphonium bromide | 0.94 mole, 361 g | [Br-].C(C=C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-pyridinecarboxaldehyde | 0.86 mole, 91.8 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | H2O | 100 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 700 mL | C1CCOC1 | C4H8O
solvent | Et2O | 1000 mL | CCOCC | C4H10O
product | 1-(Pyridin-3-yl)-1,3-butadiene | N1=CC(=CC=C1)C=CC=C | C9H9N
